US20010044511A1
A mixture of 40.2 g (0.2 mol) o-bromobenzoic acid, 27.7 g (0.2 mol) anhydrous potassium carbonate, 0.5 g granulated CuO and 125 ml (1.0 mol) freshly distilled 2,6-dimethylaniline in a 1l, three-necked flask equipped with a stirrer and a condenser was carefully heated before vigorous evolution of carbon dioxide took place and a voluminous precipitate of potassium o-bromobenzoate formed. After this stage of the reaction ended the condenser was removed and heating was continued with passing of a slow stream of N2 over the reaction mixture to remove water vapor formed in the course of the reaction. After 2-3 h at 150-160° C., the solids completely dissolved and evolution of CO2 stopped. The brownish reaction mixture was cooled to ambient temperature and poured into 1l of water. The upper layer (unreacted aniline) was separated, and the water layer was washed with 100 ml of ether and acidified with HCl to pH 2-3. The solid product was filtered, washed with hot water, dried at 100° C., dissolved in 500 ml of methanol and filtered. The dark filtrate was concentrated before a crystalline compound began to precipitate. After cooling to −20° C. the product was filtered and dried. The crystallization may be repeated if necessary. Yield 33.8 g (70%) of light yellow crystals with m.p. 208-9° C. IR (nujol): 3327 (NH), 1732 (C=0), 1673, 1605, 1564. 1H NMR (CDCl3) 2.30 (s, 6H), 6.31 (1H, d, J=8,3 Hz), 6.75 (1H, t, J=7,6 Hz), 7.23 (3H, m), 7.34 (1H, t, J=7,20 Hz), 8.13 (1H, dd, J=1.65 Hz, 8.1 Hz), 8.98 (1H, s, NH), 12.2 (1H, broad s, COOH).

reactant | o-bromobenzoic acid | 0.2 mol, 40.2 g | BrC1=C(C(=O)O)C=CC=C1 | C7H5BrO2
reactant | potassium carbonate | 0.2 mol, 27.7 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2,6-dimethylaniline | CC1=C(N)C(=CC=C1)C | C8H11N
reactant | carbon dioxide | C(=O)=O | CO2
product | potassium o-bromobenzoate | BrC1=C(C(=O)[O-])C=CC=C1.[K+] | InChI=1S/C7H5BrO2.K/c8-6-4-2-1-3-5(6)7(9)10;/h1-4H,(H,9,10);/q;+1/p-1
